US04786647
Preparation of 4-aminobutanoic acid benzyl ester hydrochloride
GABA (4 g, 38.8 mmol) was suspended in 50 ml (0.48 mol) of benzyl alcohol. The reaction mixture was stirred, with cooling on an ice bath, while 20 ml of SOCl2 was added dropwise over a 30 minute period. The mixture was slowly brought to the reflux temperature and refluxed for 4 hours. The resultant pink viscous solution was cooled to room temperature. Addition of 50 ml of ethyl ether and refrigeration overnight produced white crystals which were collected by filtration, recrystallized from a mixture of ethyl ether and ethanol and dried, m.p. 115°-116° C.

reactant | GABA | 38.8 mmol, 4 g | C(CC(=O)O)CN | C4H9NO2
reactant | benzyl alcohol | 0.48 mol, 50 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | SOCl2 | 20 ml | O=S(Cl)Cl | Cl2OS
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-aminobutanoic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CCCN)=O | InChI=1S/C11H15NO2.ClH/c12-8-4-7-11(13)14-9-10-5-2-1-3-6-10;/h1-3,5-6H,4,7-9,12H2;1H
